US07268257B1
Production of 2-benyl-4-methylanisole
A mixture of 4-methylanisole (200 g, 1.64 mol), benzyl alcohol (40.0 g, 0.37 mol) and p-toluenesulfonic acid monohydrate (8.0 g, 0.042 mol) was stirred at 160 to 175° C. for two hours while eliminating water generated by the reaction. After excess 4-methylanisole was distilled off under reduced pressure (inner temperature, 132° C./25 mmHg (3.3 kPa), the residue was dissolved in toluene (50 ml) and then the organic layer was successively washed with water (20 ml), 10% aqueous caustic soda (20 ml) and water (20 ml). After the washed organic layer was concentrated, the residue was distilled under reduced pressure to collect a component fractionated at boiling point of 120-138° C. at 0.7 mmHg (0.09 kPa) as a main fraction (52.75 g, 67.2%). The component was analyzed by NMR to identify 2.7:1 mixture of 2-benzyl-4-methylanisole and 3-benzyl-4-methylanisole.

reactant | 4-methylanisole | 1.64 mol, 200 g | CC1=CC=C(C=C1)OC | C8H10O
reactant | benzyl alcohol | 0.37 mol, 40.0 g | C(C1=CC=CC=C1)O | C7H8O
reactant | p-toluenesulfonic acid monohydrate | 0.042 mol, 8.0 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | water | O | H2O
product | 2-benyl-4-methylanisole | C(C1=CC=CC=C1)C1=C(C=CC(=C1)C)OC | C15H16O
